US06916822B2
(b) 1-Ethoxycarbonyl-4-[(2-methyl-6-nitrophenyl)amino]piperidine
1-Benzyl-4-[(2-methyl-6-nitrophenyl)amino]piperidine (45.2 mg) was dissolved in dichloromethane (0.9 ml), added with ethyl chloroformate (27 μl) and potassium hydrogencarbonate (28 mg) and stirred at room temperature for 30 minutes. The reaction mixture was added with water (2 ml) and extracted twice with ethyl acetate (2 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by preparative thin layer silica gel column chromatography (developing solvent: hexane:ethyl acetate=2:1) to obtain 38.3 mg of the title compound. Yield: 90%.

reactant | 1-Benzyl-4-[(2-methyl-6-nitrophenyl)amino]piperidine | 45.2 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C19H23N3O2
reactant | ethyl chloroformate | 27 μl | ClC(=O)OCC | C3H5ClO2
reactant | potassium hydrogencarbonate | 28 mg | C(O)([O-])=O.[K+]
reactant | water | 2 ml | O | H2O
solvent | dichloromethane | 0.9 ml | ClCCl | CH2Cl2
product | 1-Ethoxycarbonyl-4-[(2-methyl-6-nitrophenyl)amino]piperidine | 38.3 mg, Yield: 90% | C(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C15H21N3O4
